US05281742
Acetonitrile (50 ml) was added to a mixture comprising N-(2-fluoro-4-chloro-5-hydroxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione (5.0 g, 15.7 mmol), 1-butyn-3-yl p-toluenesulfonate (4.0 g, 17.8 mmol) and potassium carbonate (1.5 g, 10.9 mmol), and the reaction mixture was heated for 4 hours under reflux. After reaction, acetonitrile was removed by distillation under reduced pressure, and 1 N hydrochloric acid (100 ml) was added to the residue, which was then extracted with ether (50 ml ×2). After dried, ether was removed by distillation under reduced pressure, and an oily product of 3N-{2-fluoro-4-chloro-5-(1-butyn-3-yl)oxyphenyl}-5-isopropylidene-1,3-oxazolidine-2,4-dione was obtained. This was recrystallized from ether/hexane, and a pure product (4.94 g, 14.6 mmol) was obtained. Yield: 83.6 %. Spectral and other data of the product are those as shown in Example 30.

reactant | N-(2-fluoro-4-chloro-5-hydroxyphenyl)-5-isopropylidene-1,3-oxazolidine-2,4-dione | 15.7 mmol, 5.0 g | FC1=C(C=C(C(=C1)Cl)O)N1C(OC(C1=O)=C(C)C)=O | C12H9ClFNO4
reactant | 1-butyn-3-yl p-toluenesulfonate | 17.8 mmol, 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C#C)C)C | C11H12O3S
reactant | potassium carbonate | 10.9 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | Acetonitrile | 50 ml | C(C)#N | C2H3N
product | {2-fluoro-4-chloro-5-(1-butyn-3-yl)oxyphenyl}-5-isopropylidene-1,3-oxazolidine-2,4-dione | FC1=C(C=C(C(=C1)Cl)OC(C#C)C)N1C(OC(C1=O)=C(C)C)=O | C16H13ClFNO4
